US07943619B2
6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide
As described for example 12, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid (200 mg, 0.64 mmol) was converted, using 2-amino-2-methyl-propanol instead of ethanolamine, to the title compound (SiO2, heptane:ethyl acetate=95:5 to 50:50, 202 mg, 82%) which was obtained as a white foam. MS: m/e=383.3 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid | 0.64 mmol, 200 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=CC=C(N=N1)C(=O)O | C16H13N3O4
reactant | 2-amino-2-methyl-propanol | NC(CO)(C)C | C4H11NO
product | 6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide | 202 mg, 82% | OCC(C)(C)NC(=O)C=1N=NC(=CC1)OCC=1C(=NOC1C)C1=CC=CC=C1 | C20H22N4O4
